US06593467B2
To a suspension of 10 g (0.026 m) of 5′-deoxy-5′-iodo-5-fluoro uridine, obtained as described in Example 2, step A, in 100 ml of n-butanol, 6 ml of cyclohexene (0.06 m) and 14 ml (0.1 m) of triethylamine are added. The mixture is heated to 60° C. in order to achieve a complete solubilization, then 1.5 g of 5% Pd/C are added thereinto. The suspension is heated at 80° C. for 5 hours, filtered at the same temperature by washing with hot n-butanol and concentrated under vacuum until a residue is obtained, which crystallizes with a mixture of 60 ml of ethanol and 40 ml of isopropanol. Thus, 4.5 g of 5′-deoxy-5-fluorouridine are obtained. M.p.=188÷189° C., purity (HPLC)=99.87% and [α]D=18.35° (c=0.42, H2O).

reactant | 5′-deoxy-5′-iodo-5-fluoro uridine | 10 g | IC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)F)O)O | C9H10FIN2O5
reactant | cyclohexene | 6 ml | C1=CCCCC1 | C6H10
reactant | triethylamine | 14 ml | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 100 ml | C(CCC)O | C4H10O
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | 5′-deoxy-5-fluorouridine | 4.5 g | FC=1C(NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](C)O2)C1)=O)=O | C9H11FN2O5
